US07968570B2
A mixture of 2,3-dihydro-isoindol-1-one (0.066 g, 0.5 mmol), 2-bromomethyl-4-chloro-benzonitrile (0.116 g, 0.6 mmol), Cs2CO3 (0.408 g, 1.25 mmol), and 18-crown-6 (0.013 g, 0.05 mmol) in acetone (3 mL) was stirred at 70° C. for 16 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 5-chloro-2-(1-oxo-1,3-dihydroisoindol-2-ylmethyl)benzonitrile (0.057 g, 41%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.48 (s, 2H), 5.08 (s, 2H), 7.42-7.65 (m, 611), 7.92 (d, 1H). GC-MS: m/z 282 (M)+.

reactant | 2,3-dihydro-isoindol-1-one | 0.5 mmol, 0.066 g | C1(NCC2=CC=CC=C12)=O | C8H7NO
reactant | 2-bromomethyl-4-chloro-benzonitrile | 0.6 mmol, 0.116 g | BrCC1=C(C#N)C=CC(=C1)Cl | C8H5BrClN
reactant | Cs2CO3 | 1.25 mmol, 0.408 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 18-crown-6 | 0.05 mmol, 0.013 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | hexane | CCCCCC | C6H14
solvent | acetone | 3 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloro-2-(1-oxo-1,3-dihydroisoindol-2-ylmethyl)benzonitrile | 0.057 g, 41% | ClC=1C=CC(=C(C#N)C1)CN1C(C2=CC=CC=C2C1)=O | C16H11ClN2O
